simulator lang=spectre
global 0

ahdl_include "./dut/dwa_ptr_gen.va"
ahdl_include "./dut/v2b_4b.va"

// dwa_ptr_gen gold smoke testbench
// 100 MHz clock, v2b_4b converts analog voltage to 4-bit code.
// Runs 100ns with maxstep=2ns. Saves all 32 bits (ptr[15:0] + cell_en[15:0]).

Vclk (clk_i 0) vsource type=pulse val0=0 val1=0.9 period=10n delay=2n rise=0.5n fall=0.5n width=4.5n
Vrst_n (rst_ni 0) vsource type=pwl wave=[0 0 4.9n 0 5n 0.9 105n 0.9]

Vvin (vin_node 0) vsource type=pwl \
    wave=[0 3  13n 3  14n 7  23n 7  24n 2  33n 2  34n 5  43n 5 \
          44n 1  53n 1  54n 8  63n 8  64n 4  73n 4  74n 6  105n 6]

IV2B (clk_i vin_node code_3 code_2 code_1 code_0) v2b_4b vdd=0.9

IDUT (clk_i rst_ni \
      code_3 code_2 code_1 code_0 \
      cell_en_15 cell_en_14 cell_en_13 cell_en_12 cell_en_11 cell_en_10 cell_en_9 cell_en_8 \
      cell_en_7 cell_en_6 cell_en_5 cell_en_4 cell_en_3 cell_en_2 cell_en_1 cell_en_0 \
      ptr_15 ptr_14 ptr_13 ptr_12 ptr_11 ptr_10 ptr_9 ptr_8 \
      ptr_7 ptr_6 ptr_5 ptr_4 ptr_3 ptr_2 ptr_1 ptr_0) \
      dwa_ptr_gen vdd=0.9 vth=0.45 ptr_init=0

tran tran stop=100n maxstep=2n
save clk_i rst_ni code_3 code_2 code_1 code_0 cell_en_15 cell_en_14 cell_en_13 cell_en_12 cell_en_11 cell_en_10 cell_en_9 cell_en_8 cell_en_7 cell_en_6 cell_en_5 cell_en_4 cell_en_3 cell_en_2 cell_en_1 cell_en_0 ptr_15 ptr_14 ptr_13 ptr_12 ptr_11 ptr_10 ptr_9 ptr_8 ptr_7 ptr_6 ptr_5 ptr_4 ptr_3 ptr_2 ptr_1 ptr_0 vin_node
